data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"CO.CSC.ClCCl.O=C1OCC(CC2=CC=CC=C2)N1C(=O)C(CC1=C(Cl)C=C(C2=CC=C(F)C=C2)C=C1Cl)C[CH:2]=[CH2:1].[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",27,4,reaction_4,USPTO_ozonolysis,train
"CO.CSC.ClCCl.O=C1OCC(CC2=CC=CC=C2)N1C(=O)C(CC1=C(Cl)C=C(C2=CC=C(F)C=C2)C=C1Cl)C[CH:1]1[CH2:2][O:3][O:4][O:5]1|(5, 1);((1, 2), 3);((3, 4), 4)",27,3,reaction_4,USPTO_ozonolysis,train
"CO.CSC.ClCCl.O=C1OCC(CC2=CC=CC=C2)N1C(=O)C(CC1=C(Cl)C=C(C2=CC=C(F)C=C2)C=C1Cl)C[CH:3]=[O+:4][O-:5].[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",27,2,reaction_4,USPTO_ozonolysis,train
"CO.C[S:1]C.ClCCl.O=C1OCC(CC2=CC=CC=C2)N1C(=O)C(CC1=C(Cl)C=C(C2=CC=C(F)C=C2)C=C1Cl)CC1OC[O:2][O:3]1|(1, 3);((3, 2), 2)",27,1,reaction_4,USPTO_ozonolysis,train
"CO.C[S+:1](C)[O:2][CH:3](CC(CC1=C(Cl)C=C(C2=CC=C(F)C=C2)C=C1Cl)C(=O)N1C(=O)OCC1CC1=CC=CC=C1)[O:4][CH2:5][O-:6].ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",27,0,reaction_4,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCC(C[CH:1]=[CH2:2])(C(=O)OC)C(C)C.ClCCl.[O-:3][O+:4]=[O:5].[O-]OO|(3, 2);((2, 1), 5);((5, 4), 4)",8,4,reaction_37,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCC(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)(C(=O)OC)C(C)C.ClCCl.[O-]OO|(5, 1);((1, 2), 3);((3, 4), 4)",8,3,reaction_37,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCC(C[CH:3]=[O+:4][O-:5])(C(=O)OC)C(C)C.ClCCl.[CH2:1]=[O:2].[O-]OO|(5, 1);((1, 2), 3);((3, 4), 4)",8,2,reaction_37,USPTO_ozonolysis,train
"C1=CC=C([P:3](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCC(CC1OC[O:1][O:2]1)(C(=O)OC)C(C)C.ClCCl.[O-]OO|(3, 1);((1, 2), 2)",8,1,reaction_37,USPTO_ozonolysis,train
"CCC(C[CH:1]([O-:2])[O:3][CH2:4][O:5][P+:6](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C(=O)OC)C(C)C.ClCCl.[O-]OO|(2, 1);((1, 3), 4);((4, 5), 6)",8,0,reaction_37,USPTO_ozonolysis,train
"COC1=CC=C(COC(C(C)(C)COS(=O)(=O)CCCCl)[CH:1]=[CH2:2])C=C1.CSC.ClCCl.O.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",20,4,reaction_8,USPTO_ozonolysis,train
"COC1=CC=C(COC(C(C)(C)COS(=O)(=O)CCCCl)[CH:1]2[CH2:2][O:3][O:4][O:5]2)C=C1.CSC.ClCCl.O|(5, 1);((1, 2), 3);((3, 4), 4)",20,3,reaction_8,USPTO_ozonolysis,train
"COC1=CC=C(COC(C(C)(C)COS(=O)(=O)CCCCl)[CH:3]=[O+:4][O-:5])C=C1.CSC.ClCCl.O.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",20,2,reaction_8,USPTO_ozonolysis,train
"COC1=CC=C(COC(C2OC[O:1][O:3]2)C(C)(C)COS(=O)(=O)CCCCl)C=C1.C[S:2]C.ClCCl.O|(2, 3);((3, 1), 1)",20,1,reaction_8,USPTO_ozonolysis,train
"COC1=CC=C(COC(C(C)(C)COS(=O)(=O)CCCCl)[CH:1]([O:2][CH2:3][O-:4])[O:5][S+:6](C)C)C=C1.ClCCl.O|(4, 3);((3, 2), 1);((1, 5), 6)",20,0,reaction_8,USPTO_ozonolysis,train
"CC1OC2=CC=C(F)C=C2N(C[CH:1]=[CH2:2])C(=O)C1NC(=O)OC(C)(C)C.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",30,4,reaction_5,USPTO_ozonolysis,train
"CC1OC2=CC=C(F)C=C2N(C[CH:1]2[CH2:2][O:3][O:4][O:5]2)C(=O)C1NC(=O)OC(C)(C)C.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",30,3,reaction_5,USPTO_ozonolysis,train
"CC1OC2=CC=C(F)C=C2N(C[CH:3]=[O+:4][O-:5])C(=O)C1NC(=O)OC(C)(C)C.CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",30,2,reaction_5,USPTO_ozonolysis,train
"CC1OC2=CC=C(F)C=C2N(CC2OC[O:1][O:2]2)C(=O)C1NC(=O)OC(C)(C)C.C[S:3]C.ClCCl|(3, 2);((2, 1), 1)",30,1,reaction_5,USPTO_ozonolysis,train
"CC1OC2=CC=C(F)C=C2N(C[CH:1]([O:2][CH2:3][O-:4])[O:5][S+:6](C)C)C(=O)C1NC(=O)OC(C)(C)C.ClCCl|(4, 3);((3, 2), 1);((1, 5), 6)",30,0,reaction_5,USPTO_ozonolysis,train
"CCOC(C)=O.CO.CSC.O=C1NC2=CC=C(F)C(F)=C2C(C[CH:2]=[CH2:1])(C2=CC=C(F)C=C2)N1CC(F)(F)F.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",24,4,reaction_43,USPTO_ozonolysis,train
"CCOC(C)=O.CO.CSC.O=C1NC2=CC=C(F)C(F)=C2C(C[CH:1]2[CH2:2][O:3][O:4][O:5]2)(C2=CC=C(F)C=C2)N1CC(F)(F)F|(5, 1);((1, 2), 3);((3, 4), 4)",24,3,reaction_43,USPTO_ozonolysis,train
"CCOC(C)=O.CO.CSC.O=C1NC2=CC=C(F)C(F)=C2C(C[CH:3]=[O+:4][O-:5])(C2=CC=C(F)C=C2)N1CC(F)(F)F.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",24,2,reaction_43,USPTO_ozonolysis,train
"CCOC(C)=O.CO.C[S:1]C.O=C1NC2=CC=C(F)C(F)=C2C(CC2OC[O:2][O:3]2)(C2=CC=C(F)C=C2)N1CC(F)(F)F|(1, 3);((3, 2), 2)",24,1,reaction_43,USPTO_ozonolysis,train
"CCOC(C)=O.CO.C[S+:4](C)[O:5][CH:6](CC1(C2=CC=C(F)C=C2)C2=C(F)C(F)=CC=C2NC(=O)N1CC(F)(F)F)[O:1][CH2:2][O-:3]|(3, 2);((2, 1), 6);((6, 5), 4)",24,0,reaction_43,USPTO_ozonolysis,train
